US05057614
0.4 g of 3-(1-methyl-3-indolyl)-4-(1-methyl-5-nitro-3-indolyl)furan-2,5-dione was treated with 3 ml of DMF and 20 ml of 33% aqueous ammonia and heated at 140° C. for 3.5 hours. The cooled mixture was filtered and the residue was washed with water and dried to give 0.29 g of 3-(1-methyl-3-indolyl)-4-(1-methyl-5-nitro-3-indolyl)-1H-pyrrole-2,5-dione, m.p. 282°-284° C.

reactant | 3-(1-methyl-3-indolyl)-4-(1-methyl-5-nitro-3-indolyl)furan-2,5-dione | 0.4 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C)=O)=O | C22H15N3O5
reactant | ammonia | 20 ml | N | H3N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-(1-methyl-3-indolyl)-4-(1-methyl-5-nitro-3-indolyl)-1H-pyrrole-2,5-dione | 0.29 g | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=C(C=C12)[N+](=O)[O-])C)=O)=O | C22H16N4O4
